US05612356
3-Formyl-5,6,7,8-tetrahydro-2-hydroxy-5,5,8,8-tetramethylnaphthalene
A 10% aqueous solution of hydrochloric acid was added to 30 ml of a solution of 2.4 g of 3-formyl-5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene in tetrahydrofuran at room temperature. The obtained mixture was stirred at 50° C. for 4 hours, followed by the addition thereto of 30 ml of water. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to removd the solvent. The residue was purified by silica gel chromatography (developer: 10% diethyl ether/n-hexane) to give 1.8 g of the title compound as a colorless oil.

reactant | hydrochloric acid | Cl | ClH
reactant | 3-formyl-5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene | 2.4 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCOC | C17H24O3
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Formyl-5,6,7,8-tetrahydro-2-hydroxy-5,5,8,8-tetramethylnaphthalene | 1.8 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H20O2
